US06897224B2
22 mg of 4-(1,3-benzodioxol-4-yl)-N-(quinolin-5-yl)-4-methyl-2-oxopentanamide and 0.04 ml of trifluoromethyltrimethylsilane in 1 ml of DMF are mixed at 0° C. with 11 mg of cesium carbonate. After 2 hours, a spatula-tip full of tetrabutylammonium fluoride is added, and after another 20 minutes, the reaction is added to water. It is extracted 3 times with ethyl acetate, washed with water and brine, dried, and the solvent is removed in a vacuum. The remaining oil is separated by chromatography on silica gel. 11 mg of 4-(1,3-benzodioxol-4-yl)-N-(quinolin-5-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanamide is obtained as a solid. Flash point: 164-167° C.

reactant | 4-(1,3-benzodioxol-4-yl)-N-(quinolin-5-yl)-4-methyl-2-oxopentanamide | 22 mg | O1COC2=C1C=CC=C2C(CC(C(=O)NC2=C1C=CC=NC1=CC=C2)=O)(C)C | C22H20N2O4
reactant | trifluoromethyltrimethylsilane | 0.04 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | cesium carbonate | 11 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(1,3-benzodioxol-4-yl)-N-(quinolin-5-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanamide | 11 mg | O1COC2=C1C=CC=C2C(CC(C(=O)NC2=C1C=CC=NC1=CC=C2)(C(F)(F)F)O)(C)C | C23H21F3N2O4
